US08202873B2
3′-(4-Fluorophenyl)-4-[2-(1,3,5-trimethyl-1H-pyrazol-4-yl)-ethyl]-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine hydrochloride
Combine (1,3,5-trimethyl-1H-pyrazol-4-yl)-acetaldehyde (0.35 g, 2.27 mmol) and 3′-(4-fluorophenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (0.71 g, 2.76 mmol) in DCM (10 mL) and stir at room temperature for 10 min. Add glacial acetic acid (0.21 mL, 3.44 mmol) followed by sodium triacetoxyborohydride (0.73 g, 3.44 mmol). Stir at room temperature for 2 hr. Concentrate, dissolve in methanol (5 mL) and load on a 10 g SCX column. Wash with methanol (2×50 mL). Elute with 2 M ammonia in methanol (2×30 mL). Concentrate the eluent and purify (silica gel chromatography, eluting with 45:45:10 hexanes:DCM:ethanol), to give the free base of the title compound (48 mg, 5%). Dissolve the free base (0.041 g, 0.104 mmol) in methanol and add a solution of ammonium chloride (0.006 g, 0.104 mmol) in a minimal volume of methanol. Shake for 18 hr. at room temperature and concentrate to give the title compound (50 mg, 95%). MS (ES): m/z=395 [M+H]+.

reactant | (1,3,5-trimethyl-1H-pyrazol-4-yl)-acetaldehyde | 2.27 mmol, 0.35 g | CN1N=C(C(=C1C)CC=O)C | C8H12N2O
reactant | 3′-(4-fluorophenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 2.76 mmol, 0.71 g | FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCNCC1 | C14H15FN4
reactant | acetic acid | 3.44 mmol, 0.21 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 3.44 mmol, 0.73 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 3′-(4-Fluorophenyl)-4-[2-(1,3,5-trimethyl-1H-pyrazol-4-yl)-ethyl]-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine hydrochloride | 48 mg, 5% | Cl.FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CCC=1C(=NN(C1C)C)C | InChI=1S/C22H27FN6.ClH/c1-16-20(17(2)27(3)26-16)8-11-28-12-14-29(15-13-28)22-21(24-9-10-25-22)18-4-6-19(23)7-5-18;/h4-7,9-10H,8,11-15H2,1-3H3;1H
